US06919353B2
To a solution of 4-bromothioanisole (1.06 g, 5.2 mmol) in THF (20 mL) at −78° C. was added BuLi (2.3M, hexane, 2.2 mL, 5 mmol) dropwise. After 30 min at −78° C., 4-methylthiobenzaldehyde (685 mg, 4.5 mmol) was added. After 20 min., the resulting reaction mixture was diluted with a saturated ammonium chloride solution and ethyl acetate. The organic extracts were washed (H2O, brine), dried (MgSO4), filtered and concentrated. Purification by flash chromatography (eluting with hexane/ethyl acetate, 80:20) provided the bis-(4-methylsulfanyl-phenyl)-methanol compound.

reactant | 4-bromothioanisole | 5.2 mmol, 1.06 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | BuLi | 5 mmol, 2.3M, 2.2 mL | [Li]CCCC
reactant | 4-methylthiobenzaldehyde | 4.5 mmol, 685 mg | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | bis-(4-methylsulfanyl-phenyl)-methanol | CSC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)SC | C15H16OS2
